US06759428B2
To a solution of 689 mg (10.13 mmol) sodium ethoxide in 5 mL absolute ethanol at 0° C. was added a solution of 500 mg (2.44 mmol) of allyl 4-formylphenylcarbamate and 1.25 g (9.75 mmol) ethylazidoacetate dissolved in 5 mL absolute ethanol and 1 mL tetrahydrofuran dropwise over 5 minutes. The mixture was stirred at 0° C. for 1.5 h, then partitioned between ethyl acetate and 1 N HCl until neutral. The organic phase was dried over magnesium sulfate, concentrated and purified by column chromatography, eluting with 25% ethyl acetate/hexane to provide 385 mg of ethyl (2E)-3-(4-{[(allyloxy)carbonyl]amino}phenyl)-2-azidoprop-2-enoate as a yellow solid.

reactant | sodium ethoxide | 10.13 mmol, 689 mg | [O-]CC.[Na+]
reactant | allyl 4-formylphenylcarbamate | 2.44 mmol, 500 mg | C(=O)C1=CC=C(C=C1)NC(OCC=C)=O | C11H11NO3
reactant | ethylazidoacetate | 9.75 mmol, 1.25 g | C(C)OC(CN=[N+]=[N-])=O | C4H7N3O2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | ethyl (2E)-3-(4-{[(allyloxy)carbonyl]amino}phenyl)-2-azidoprop-2-enoate | 385 mg | C(C=C)OC(=O)NC1=CC=C(C=C1)/C=C(\C(=O)OCC)/N=[N+]=[N-] | C15H16N4O4
